US04060526
Step 3. 5-Hydroxy-2-nitrobenzamide
Methyl 5-hydroxy-2-nitrobenzoate (48 g) in 340 ml methanol was heated 30 hours at 107° in a pressure vessel with 140 ml NH3. The mixture was cooled and concentrated to dryness on the rotovap. Water was added (200 ml) and the solid filtered and dried to give 12 g product, m.135-8°.

reactant | Methyl 5-hydroxy-2-nitrobenzoate | 48 g | OC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H7NO5
reactant | NH3 | 140 ml | N | H3N
solvent | methanol | 340 ml | CO | CH4O
product | 5-Hydroxy-2-nitrobenzamide | 12 g | OC=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C7H6N2O4
